US05206240
Step C: Preparation of 2,3-dihydro-5-(methanesulfonamido)spiro(benzofuran-2,3'-piperidine)hydrochloride
A solution of 3.6 g (11.09 mmole) of 1'-Acetyl-2,3-dihydro-5-methanesulfonamidospiro(benzofuran-2,3'-piperidine) in 100 mL ethanol was treated with 50 mL 6N hydrochloric acid and heated to reflux for 18 hours. The reaction was concentrated to dryness and the residue crystallized from ethanol to give 2.77 g of products mp=243°-244° C. 'H NMR (DMSO) δ9.6 (brs, 1H), 9.4 (s, 1H), 7.11 (d, J=1.6 Hz, 1H), 7.0 (dd, J=1.6, 8.5 Hz), 6.70 (d, J=8.5 Hz, 1H), 3.5-2.8 (m, 6H), 2.88 (s, 3H), 2.0-1.30 (m, 4H).

reactant | 1'-Acetyl-2,3-dihydro-5-methanesulfonamidospiro(benzofuran-2,3'-piperidine) | 11.09 mmole, 3.6 g | C(C)(=O)N1CC2(CCC1)OC1=C(C2)C=C(C=C1)NS(=O)(=O)C | C15H20N2O4S
reactant | hydrochloric acid | 6N, 50 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2,3-dihydro-5-(methanesulfonamido)spiro(benzofuran-2,3'-piperidine)hydrochloride | 2.77 g | Cl.CS(=O)(=O)NC=1C=CC2=C(CC3(CNCCC3)O2)C1 | InChI=1S/C13H18N2O3S.ClH/c1-19(16,17)15-11-3-4-12-10(7-11)8-13(18-12)5-2-6-14-9-13;/h3-4,7,14-15H,2,5-6,8-9H2,1H3;1H
